US07557113B2
An ethyl 4-[3-amino-2-(ethoxycarbonyl)pyrolyl]butanoate hydrochloride (20.1 g) was dissolved in dichloromethane (400 mL), and saturated aqueous sodium hydrogen carbonate (400 mL) was added thereto. The reaction mixture was vigorously stirred for 30 minutes, and two layers were separated. The aqueous layer was extracted with dichloromethane, and combined organic layer was washed with saturated brine, and dried over magnesium sulfate. The magnesium sulfate was filtered, and the solvent was distilled off under reduced pressure to obtain ethyl 4-[3-amino-2-(ethoxycarbonyl)pyrolyl]butanoate (18.0 g). This compound was dissolved in isopropylalcohol (400 mL), and formamidine acetate (9.78 g) was added thereto. This mixture was heated for 150 minutes to reflux. The solvent was distilled off under reduced pressure and the residue was separated to dichloromethane and aqueous layers. The aqueous layer was extracted with dichloromethane, and the combined organic layer was washed with 10% aqueous citric acid solution, saturated aqueous sodium hydrogen carbonate, and saturated brine, which was dried over magnesium sulfate, and the solvent was distilled off under reduced pressure to obtain the title compound (13.0 mg, yield 78%). The NMR data and ESI/MS data of the compound are given below.

reactant | ethyl 4-[3-amino-2-(ethoxycarbonyl)pyrolyl]butanoate hydrochloride | 20.1 g | Cl.NC1=C(NC=C1CCCC(=O)OCC)C(=O)OCC
reactant | sodium hydrogen carbonate | 400 mL | C(O)([O-])=O.[Na+]
solvent | dichloromethane | 400 mL | ClCCl | CH2Cl2
product | ethyl 4-[3-amino-2-(ethoxycarbonyl)pyrolyl]butanoate | 18.0 g | NC1=C(NC=C1CCCC(=O)OCC)C(=O)OCC | C13H20N2O4
